US07196085B2
Sodium methoxide solution (27% in methanol, 400 g, 2 mol) was added over 40 minutes at 20–30° C. to a stirred mixture of phthalide (67 g, 0.5 mol), 3-nitrobenzaldehyde (75.5 g, 0.5 mol), ethyl propionate (250 ml) and methanol (150 ml). The mixture was stirred at ambient temperature for 15 minutes then it was heated under reflux for 2.5 hours, cooled to ambient temperature and poured into water (2300 ml). The aqueous mixture was washed with ether (5×500 ml) then acetic acid (60 ml) was added. The resulting solid was collected by filtration, washed with water (200 ml) and dried in vacuo to give 2-(3-nitrophenyl)indan-1,3-dione (87.92 g) as a dark red-brown solid, m.pt. 216–226° C., which was used without further purification.

reactant | Sodium methoxide | 2 mol, 400 g | C[O-].[Na+]
reactant | phthalide | 0.5 mol, 67 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | 3-nitrobenzaldehyde | 0.5 mol, 75.5 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethyl propionate | 250 ml | C(CC)(=O)OCC | C5H10O2
solvent | water | 2300 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
product | 2-(3-nitrophenyl)indan-1,3-dione | 87.92 g | [N+](=O)([O-])C=1C=C(C=CC1)C1C(C2=CC=CC=C2C1=O)=O | C15H9NO4
